US05489593
1-[3-(1,1-Dimethylethylamino)-2-pyridinyl]piperazine
Isobutylene (10 ml) is condensed into a solution of 1-[1,1-dimethylethoxycarbonyl]-4-[3-amino-2-pyridinyl]piperazine (International Publication No. WO 88/08424, 200 mg) in methylene chloride (10 ml) at -70°. Phosphoric acid (85%, 50 μl) is added and the mixture stirred for 60 minutes. Boron trifluoride etherate (200 μl) is added dropwise and the resulting suspension is stirred 8 hours at reflux and overnight at 20°-25° allowing the isobutylene to evaporate. The suspension is diluted with water and ammonium hydroxide is added until basic to pH paper and then extracted with methylene chloride (3 ×). The combined extracts are dried over anhydrous potassium carbonate, filtered, and concentrated under reduced pressure to a liquid which is flash chromatographed (silica gel, 230-400 mesh), eluting with methanol/chloroform (3/20). The appropriate fractions are pooled and concentrated to give an oil. The NMR, CMR, IR, and MS (m/e) M+234 support the title compound.

reactant | Isobutylene | 10 ml | CC(C)=C | C4H8
reactant | 1-[1,1-dimethylethoxycarbonyl]-4-[3-amino-2-pyridinyl]piperazine | 200 mg | CC(C)(OC(=O)N1CCN(CC1)C1=NC=CC=C1N)C | C14H22N4O2
reactant | Phosphoric acid | 50 μl | P(O)(O)(O)=O | H3O4P
reactant | Boron trifluoride etherate | 200 μl | B(F)(F)F.CCOCC
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 1-[3-(1,1-Dimethylethylamino)-2-pyridinyl]piperazine | CC(C)(C)NC=1C(=NC=CC1)N1CCNCC1 | C13H22N4
